US07700786B2
Potassium carbonate (0.62 g, 4.5 mmol) and isopropyl isocyanate (0.26 g, 3.0 mmol) were added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-4,5-dimethylpyrazole (0.88 g, 3.0 mmol) in DMF (10 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a white solid of N-isopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-4,5-dimethylpyrazole-1-carboxamide (0.55 g, yield: 48.7%) mp: 78-80° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (d, J=6.6 Hz, 6H), 1.78 (s, 3H), 2.58 (s, 3H), 3.95-4.15 (m, 1H), 6.70-6.95 (m, 1H), 8.02 (d, J=2.1 Hz, 1H), 8.32 (m, 1H).

reactant | Potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isocyanate | 3.0 mmol, 0.26 g | C(C)(C)N=C=O | C4H7NO
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-4,5-dimethylpyrazole | 3.0 mmol, 0.88 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1C)C | C11H9ClF3N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-isopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-4,5-dimethylpyrazole-1-carboxamide | 0.55 g, yield: 48.7% | C(C)(C)NC(=O)N1N=C(C(=C1C)C)OC1=NC=C(C=C1Cl)C(F)(F)F | C15H16ClF3N4O2
